US04734430
Sodium hydride (1.44 grams of a 60% suspension in mineral oil), 1.46 ml of ethyl formate and 3 drops of ethanol were combined in 150 ml of anhydrous tetrahydrofuran and stirred at room temperature for 30 minutes. A solution of 4 grams of 1-benzyl-5,6-dihydro-4(1H)-cyclopentapyrazolone in 50 ml of anhydrous tetrahydrofuran was added dropwise and the reaction mixture was heated at reflux for 16 hours. An additional 1.44 grams of sodium hydride suspension and 1.46 ml of ethyl formate were then added and the reaction mixture was heated at reflux for 2 hours. The mixture was cooled, diluted with 150 ml of water, and washed with ethyl ether. The aqueous layer was acidified with aqueous hydrochloric acid and the solid which formed was collected by filtration to give 1-benzyl-5,6-dihydro-5-hydroxymethylene-4(1H)-cyclopentapyrazolone as a tan solid melting at about 171°-172° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl formate | 1.46 ml | C(=O)OCC | C3H6O2
reactant | 1-benzyl-5,6-dihydro-4(1H)-cyclopentapyrazolone | 4 grams | C(C1=CC=CC=C1)N1N=CC2=C1CCC2=O | C13H12N2O
reactant | sodium hydride | 1.44 grams | [H-].[Na+]
reactant | ethyl formate | 1.46 ml | C(=O)OCC | C3H6O2
catalyst | ethanol | 3 drops | C(C)O | C2H6O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 1-benzyl-5,6-dihydro-5-hydroxymethylene-4(1H)-cyclopentapyrazolone | C(C1=CC=CC=C1)N1N=CC2=C1CC(C2=O)=CO | C14H12N2O2
